*****************************************************************
* NXP PSMN015-60PS
*
* Polarity N-Channel
* Ratings 60V/1.480000E-002OHMS/50A
*
* Date Created Thu Nov 03 07:16:33 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN015-60PS DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.02654824574367
RLD1 5 4 0.00027
LG GATE 1 2.77794920990657e-09
RLG GATE 1 6.98174786391044
LS SOURCE 8 3.36776357327138e-09
RLS2 SOURCE 8 8.46411304065334
RLS1 8 7 0.00113201211336403

RDS 7 4 2000000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0085983201787716 TC=0.0052990000555891,1.6494877356115E-05
RBD 9 4 0.00118767185956956 TC=0.0052990000555891,1.6494877356115E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 2000000000
CGS 2 6 1.125e-09
RG 1 2 1.29244205006245

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -5	900
+ -2	771.2
+ -1	577.8
+ -0.5	444.4
+ -0.2	363.8
+ -0.1	344.2
+ 0	326.8
+ 0.1	303
+ 0.2	285.9
+ 0.5	251.6
+ 1	216.72
+ 2	170.7
+ 5	130.8
+ 10	116.5
+ 12	113.1
+ 20	102.6
+ 25	97.8
+ 30	93.9
+ 40	85.05
+ 50	76.35
+ 60	67.65


.MODEL MINT NMOS(Vto=3.505 Kp=0.72e+002 Nfs=600000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=7.94830151573861e-13
+ N=1 M=0.59 VJ=0.54 Fc=0.5 Cjo=7.435e-10 Tt=3.1e-08)

.ENDS

